US07598418B2
Preparation of N-benzyl-5-hydroxynaphthalene-2-sulfonamide (Compound No. 4-1)
Ethanol (3 ml) and 2N aqueous sodium hydroxide (0.1 ml) were added to 5-acetyloxy-N-benzylnaphthalene-2-sulfonamide (Compound No. 3-1; 62.0 mg, 0.17 mmol), and the mixture was stirred at room temperature for 5 minutes. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (eluent; n-hexane: ethyl acetate=1:1) to give the title compound as a yellow white crystal (53.3 mg, 100%).

reactant | sodium hydroxide | 2N, 0.1 ml | [OH-].[Na+]
reactant | 5-acetyloxy-N-benzylnaphthalene-2-sulfonamide | 0.17 mmol, 62.0 mg | C(C)(=O)OC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)NCC1=CC=CC=C1 | C19H17NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | Ethanol | 3 ml | C(C)O | C2H6O
product | N-benzyl-5-hydroxynaphthalene-2-sulfonamide | 53.3 mg, 100% | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC2=CC=CC(=C2C=C1)O | C17H15NO3S
